US05883049
After an acetic acid (172 mL) solution of reduced iron (21.0 g) was stirred for one hour under reflux, an ethyl acetate (113 mL) solution of 2-(4-chloro-2-fluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (5.14 g, 0.016 mol) was dropwise added to the mixture at the same temperature. The reaction mixture was stirred for 2 hours under reflux and cooled down to room temperature. After filtration of the resulting mixture, 1N hydrochloric acid (250 mL) was added to the filtrate, and the organic layer was separated and the aqueous layer was extracted with ethyl acetate (100 mL×2 times). The organic layer combined was washed with water (300 mL) and dried over anhydrous magnesium sulfate. After removal of magnesium sulfate by filtration, the filtrate was evaporated to give crude product, which was purified by silica gel column (Wakogel C-200, ethyl acetate/hexane =1/1) to obtain a white solid of 2-(5-amino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione (2.81 g, yield:59.4%).

reactant | acetic acid | 172 mL | C(C)(=O)O | C2H4O2
reactant | 2-(4-chloro-2-fluoro-5-nitrophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 0.016 mol, 5.14 g | ClC1=CC(=C(C=C1[N+](=O)[O-])N1C(N2C(=CCCC2)C1=O)=O)F | C13H9ClFN3O4
solvent | ethyl acetate | 113 mL | C(C)(=O)OCC | C4H8O2
product | 2-(5-amino-4-chloro-2-fluorophenyl)-5,6-dihydroimidazo [1,5-a] pyridine-1,3[2H, 7H]-dione | 2.81 g, yield:59.4% | NC=1C(=CC(=C(C1)N1C(N2C(=CCCC2)C1=O)=O)F)Cl | C13H11ClFN3O2
